US05780482
In a similar manner to Example B1, 6-ethoxy-7-methyl-1,8-naphthyridin-4-ol (2.15 g) and phosphorus oxychloride (25 ml) were heated at 60° C. for 1 hour to give 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine, m.p. 164° C.

reactant | 6-ethoxy-7-methyl-1,8-naphthyridin-4-ol | 2.15 g | C(C)OC=1C=C2C(=CC=NC2=NC1C)O | C11H12N2O2
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine | ClC1=C2C=C(C(=NC2=NC=C1)C)OCC | C11H11ClN2O
